US05162318
To a solution of 5-bromo-1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one (510 mg) in ethanol (5 ml) and diethyl ether (50 ml) was added 4N hydrogen chloride in dioxane dropwise with stirring. The separated crystals were collected by suction and dried to give 490 mg of 5-bromo-1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one hydrochloride.

reactant | 5-bromo-1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one | 510 mg | BrC1=CC2=C(N(C(N2)=O)CCN(C)C)C=C1 | C11H14BrN3O
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-bromo-1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one hydrochloride | 490 mg | Cl.BrC1=CC2=C(N(C(N2)=O)CCN(C)C)C=C1 | InChI=1S/C11H14BrN3O.ClH/c1-14(2)5-6-15-10-4-3-8(12)7-9(10)13-11(15)16;/h3-4,7H,5-6H2,1-2H3,(H,13,16);1H
